US06281356B1
3-(6-Furan-2-yl-1-methyl-1H-indol-3-yl)-4-(1H-indol-3-yl)pyrrole-2,5-dione was prepared from 6-furan-2-yl-1-methyl-1H-indole and 2-[1-(2,2-dimethylpropionyl)-1H-indol-3-yl]acetimidic acid isopropyl ester hydrochloride followed by deprotection with NaOMe in methanol.

reactant | 6-furan-2-yl-1-methyl-1H-indole | O1C(=CC=C1)C1=CC=C2C=CN(C2=C1)C | C13H11NO
reactant | 2-[1-(2,2-dimethylpropionyl)-1H-indol-3-yl]acetimidic acid isopropyl ester hydrochloride | Cl.C(C)(C)OC(CC1=CN(C2=CC=CC=C12)C(C(C)(C)C)=O)=N
reactant | NaOMe | C[O-].[Na+]
reactant | methanol | CO | CH4O
product | 3-(6-Furan-2-yl-1-methyl-1H-indol-3-yl)-4-(1H-indol-3-yl)pyrrole-2,5-dione | O1C(=CC=C1)C1=CC=C2C(=CN(C2=C1)C)C=1C(NC(C1C1=CNC2=CC=CC=C12)=O)=O | C25H17N3O3
